US08729078B2
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide
1-(3-Bromo-2-formylphenyl)-3-(4-(morpholine-4-carbonyl)phenylamino)-1H-pyrazole-4-carbonitrile (34 mg, 0.0708 mmol), 6-tert-butyl-8-fluorophthalazin-1(2H)-one (31.2 mg, 0.142 mmol), cuprous iodide (27 mg, 0.142 mmol) and sodium bicarbonate (14.9 mg, 0.177 mmol) were combined in 1 mL of DMSO. The solution was degassed with argon and then heated in a microwave at 120° C. for 1 hr. The resulting mixture was extracted with ethyl acetate and ammonium chloride solution. The organic layer was concentrated and purified by flash column chromatography using ethyl acetate (containing 5% methanol) in hexanes (5% to 80% linear gradient in 15 minutes, 12 g silica gel) to give the pure desired product. This material was triturated with ether in hexanes and filtered to give 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carbonitrile (18.2 mg, 41.5% yield) as a pale pink solid. LC/MS clacd for C33H30FN7O3 (m/e) 591.24, obsd 592.0 (M+H, ES+); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.38 (s, 9H), 3.50 (br., 4H), 3.59 (br., 4H), 7.37 (d, J=8.6 Hz, 2H), 7.59 (d, J=8.3 Hz, 1H), 7.65-7.71 (m, 3H), 7.78 (d, J=13.1 Hz, 1H), 7.87-7.93 (m, 2H), 8.08 (s, 1H), 8.58 (d, J=2.3 Hz, 1H), 9.29 (s, 1H), 9.47 (s, 1H).

reactant | 1-(3-Bromo-2-formylphenyl)-3-(4-(morpholine-4-carbonyl)phenylamino)-1H-pyrazole-4-carbonitrile | 0.0708 mmol, 34 mg | BrC=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=CC=C(C=C1)C(=O)N1CCOCC1)C=O | C22H18BrN5O3
reactant | 6-tert-butyl-8-fluorophthalazin-1(2H)-one | 0.142 mmol, 31.2 mg | C(C)(C)(C)C=1C=C2C=NNC(C2=C(C1)F)=O | C12H13FN2O
reactant | sodium bicarbonate | 0.177 mmol, 14.9 mg | C([O-])(O)=O.[Na+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-phenyl]-3-[4-(morpholine-4-carbonyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C=C(C=CC1)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)C(=O)N1CCOCC1 | C33H32FN7O4
